US04456612
6,7-Dichloro-2,3-dihydro-5-(2-fluorobenzoyl)benzofuran-2-carboxylic acid
Jones reagent [J. Chem. Soc., 2555 (1953)] (84 ml.) was added dropwise to a stirred, cooled solution of 6,7-dichloro-2,3-dihydro-5-(2-fluorobenzoyl)-2-hydroxymethylbenzofuran (43 g., 0.126 mole) in acetone (700 ml.) at such a rate that the internal temperature did not exceed 25° C. The resultant mixture was stirred for 18 hours at 25° C. The insoluble chromium salts were separated by decantation and washed with acetone. The washings were combined with the filtrate, and the resultant solution was concentrated to 1/5 the original volume and then poured into H2O. This mixture was extracted with methylene chloride and the organic extract was washed several times with aqueous NaCl. The methylene chloride solution was then extracted with 0.5N KOH. Upon standing the aqueous extract deposited the potassium carboxylate salt as a crystalline solid. The solid was dissolved in warm water, acidified with 6N HCl and the resulting solution extracted with ethyl acetate. Drying and evaporation furnished 38 g. of carboxylic acid, m.p. 180°-181° C. This material was used without additional purification for the next step.

reactant | Jones reagent | 84 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 6,7-dichloro-2,3-dihydro-5-(2-fluorobenzoyl)-2-hydroxymethylbenzofuran | 0.126 mole, 43 g | ClC1=C(C2=C(CC(O2)CO)C=C1C(C1=C(C=CC=C1)F)=O)Cl | C16H11Cl2FO3
solvent | acetone | 700 ml | CC(=O)C | C3H6O
product | 6,7-Dichloro-2,3-dihydro-5-(2-fluorobenzoyl)benzofuran-2-carboxylic acid | ClC1=C(C2=C(CC(O2)C(=O)O)C=C1C(C1=C(C=CC=C1)F)=O)Cl | C16H9Cl2FO4
